US06949579B2
N-[(6-(2-propenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide
1.24 g of caesium fluoride, 0.77 cm3 of 2-allyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane, 31.5 mg of 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl and 13.5 mg of palladium acetate are successively added to a solution of 1 g of N-[6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl)butanamide, prepared in Example 25, in 30 cm3 of dioxane, and the mixture is refluxed for 18 hours. The reaction medium is filtered and taken up in 2×50 cm3 of ethyl acetate, and the organic phase is washed successively with 50 cm3 of water and 50 cm3 of saturated sodium chloride solution. After separating out the organic phase by settling, drying over sodium sulphate, filtration and concentration to dryness under reduced pressure (2 kPa; 50° C.) 1.3 g of brown oil are obtained, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4.5 cm), eluting with a cyclohexane/ethyl acetate mixture (90/10 by volume). After concentration and drying (90 Pa; 45° C.), 0.72 g of N-[(6-(2-propenyl-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide is obtained in the form of a yellow oil in a purity of 75%.

reactant | caesium fluoride | 1.24 g | [F-].[Cs+]
reactant | 2-allyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.77 cm3 | C(C=C)B1OC(C(O1)(C)C)(C)C | C9H17BO2
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl | 31.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | N-[6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl)butanamide | 1 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
reactant | dioxane | 30 cm3 | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 13.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (6-(2-propenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | C(C=C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C(C(=O)N)CC | C20H31N3O2Si
